US08835426B2
To a solution of 4-(1-adamantylmethylamino)butan-2-ol (50 mg, 0.21 mmol) and Et3N (42.4 mg, 0.42 mmol) in CH2Cl2 (5 mL) at 0° C. under N2, a solution of triphosgene (25 mg, 0.084 mmol) in CH2Cl2 (1 mL) was added dropwise. The mixture was stirred at rt for 1 h. The mixture was concentrated to give crude product, which was purified by preparative TLC to afford 3-((1-adamantyl)methyl)-6-methyl-1,3-oxazinan-2-one (12 mg, 21%). 1H NMR (CD3OD, 400 MHZ): δ=1.46 (d, 3H), 1.72˜2.18 (m, 17H), 3.02 (d, 1H), 3.34 (d, 1H), 3.44 (m, 1H), 3.63 (m, 1H), 4.58 (m, 1H); MS m/z=264

reactant | 4-(1-adamantylmethylamino)butan-2-ol | 0.21 mmol, 50 mg | C12(CC3CC(CC(C1)C3)C2)CNCCC(C)O | C15H27NO
reactant | Et3N | 0.42 mmol, 42.4 mg | CCN(CC)CC | C6H15N
reactant | triphosgene | 0.084 mmol, 25 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-((1-adamantyl)methyl)-6-methyl-1,3-oxazinan-2-one | 12 mg, 21% | C12(CC3CC(CC(C1)C3)C2)CN2C(OC(CC2)C)=O | C16H25NO2
